US05412066
The phenylethynyl group has two important advantages over the ethynyl group. These are stability towards conditions of aromatic nucleophilic displacement reactions and stability at moderate temperatures (i.e. 150-250° C.). For example, when 4-phenylethynyl-4'-fluorobenzophenone was treated with a slight excess of 3 or 4-aminophenol in the presence of an alkali metal base such as potassium carbonate in a polar aprotic solvent such as N,N-dimethylacetamide (DMAc) at 143° C., 3 or 4-aminophenoxy-4'-phenylethynylbenzophenone was afforded in nearly quantitative yield. However, several attempts to make the 3-aminophenoxy-4'-ethynylbenzophenone from the 4-ethynyl-4'-fluorobenzophenone under similar reaction conditions afforded a mixture of products. In addition, imide model compounds of the phenylethynyl endcapper react at a moderate to fast rate in air at 300° to 350° C. whereas analogous model compounds containing the ethynyl group react at a moderate to fast rate in air at 200° to 250° C. Phenylethynyl containing imide model compounds are reasonably stable at 200° C. (see Example 6) whereas thynyl containing imide model compounds react at 200° C.

reactant | 4-phenylethynyl-4'-fluorobenzophenone | C1(=CC=CC=C1)C#CC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C21H13FO
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-aminophenoxy-4'-phenylethynylbenzophenone | quantitative yield | NC1=CC=C(OC2=C(C(=O)C3=CC=C(C=C3)C#CC3=CC=CC=C3)C=CC=C2)C=C1 | C27H19NO2
